US07342118B2
2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid [1-(2-dimethylamino-1,1-dimethyl-ethyl)-1H-imidazol-4-yl]-amide
2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid [1-(1,1-dimethyl-2-oxo-ethyl)-1H-imidazol-4-yl]-amide was reacted with dimethyl amine to afford the title compound: C13 NMR (100 MHz, CDCl3) 14.2, 19.5, 19.6, 26.2, 26.2, 26.3, 28.2, 28.3, 28.8, 29.6, 29.8, 36.6, 48.0, 52.3, 52.8, 58.9, 59.0, 60.3, 60.8, 70.0, 101.0, 104.6, 110.7, 131.2, 137.3, 159.8, 162.2, 172.4, 183.1, 183.9; MS m/z 448.4 (M+1).

reactant | 2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid [1-(1,1-dimethyl-2-oxo-ethyl)-1H-imidazol-4-yl]-amide | CC(C=O)(C)N1C=NC(=C1)NC(C(CCC)NC1CC2=C(C=C(C=C2CC1)F)F)=O | C22H28F2N4O2
reactant | dimethyl amine | CNC | C2H7N
product | 2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid [1-(2-dimethylamino-1,1-dimethyl-ethyl)-1H-imidazol-4-yl]-amide | CN(CC(C)(C)N1C=NC(=C1)NC(C(CCC)NC1CC2=C(C=C(C=C2CC1)F)F)=O)C | C24H35F2N5O
